US06936612B2
5-Bromo-2-nitropyridine (10.81 g, 53.3 mmol), tetra-n-butyl ammonium iodide (0.98 g, 2.66 mmol), 2,6-dimethyl-piperazine (6.69 g, 58.6 mmol) and potassium carbonate (8.10 g, 58.6 mmol) were mixed in DMSO (50 mL). The reaction mixture was warmed to 80° C. for 4 hours by which time the reaction was complete by TLC analysis. The reaction mixture was diluted with dichloromethane and washed with water (3×75 mL). The combined organics were dried over MgSO4, the inorganic salts were removed by filtration and the remaining solvents were concentrated to provide an orange solid. This solid was dissolved in dichloromethane (150 mL) to which triethylamine (10.8 g, 14.8 mL, 108 mmol) and di-tert-butyl dicarbonate (13.95 g, 63.9 mmol) were added. The reaction mixture was heated to reflux for 3 hours then cooled to room temperature and diluted with dichloromethane (100 mL) and washed with water (1×100 mL). The organic layer was then dried over MgSO4, filtered and the solvent evaporated to yield an orange solid. The orange solid was dissolved in THF (500 mL) to which Raney Nickel (9.23 g) was added. The reaction mixture was shaken under a hydrogen atmosphere (50 psi) for 4 hours. The catalyst was removed by filtration, and the solvent evaporated to give a crude purple solid. This solid was purified by chromatography eluting with ethyl acetate to give 4-(6-amino-pyridin-3-yl)-2,6-dimethyl-piperazine-1-carboxylic acid tert-butyl ester as a purple solid (4.36 g, 26.7%). 1H NMR δ (400 MHz, CDCl3) 7.72 (d, J=2.4 Hz, 1H), 7.18 (dd, J=2.9, 8.8 Hz, 1H), 6.51 (d, J=8.8 Hz, 1H), 4.35 (s, 2H), 4.21 (m, 2H), 3.08 (dd, J=4.4, 11.7 Hz 2H), 1.48 (s, 9H), 1.35 (d, J=6.8 Hz, 6H).

reactant | 5-Bromo-2-nitropyridine | 53.3 mmol, 10.81 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | 2,6-dimethyl-piperazine | 58.6 mmol, 6.69 g | CC1NC(CNC1)C | C6H14N2
reactant | potassium carbonate | 58.6 mmol, 8.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 108 mmol, 14.8 mL, 10.8 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 63.9 mmol, 13.95 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | tetra-n-butyl ammonium iodide | 2.66 mmol, 0.98 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
catalyst | Raney Nickel | 9.23 g | [Ni] | Ni
product | 4-(6-amino-pyridin-3-yl)-2,6-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 4.36 g, 26.7% | C(C)(C)(C)OC(=O)N1C(CN(CC1C)C=1C=NC(=CC1)N)C | C16H26N4O2
